US07101912B2
Step A: 2-(N′-tert-Butoxycarbonyl-hydrazino)-3-(3,4-dihydroxy-phenyl)-2-methyl-propionic acid (102)
To a mixture of carbidopa (5 g, 20 mmol), triethylamine (3 mL, 21 mmol) in methanol, was added Boc anhydride (4.7 g, 21 mmol) at 0° C. The reaction mixture was stirred at room temperature for 16 h under nitrogen. After removing the solvent under reduced pressure, the product was partitioned between ethyl acetate and 10% citric acid. The organic layer was separated, dried over MgSO4 and concentrated to give 6.2 g (95%) of the title compound. 1H NMR (CD3OD, 400 MHz): 1.28 (s, 3H), 1.46 (s, 9H), 2.83 (dd, 2H), 6.60 (m, 3H). MS (ESI) m/z 349.21 (M+Na+).

reactant | carbidopa | 20 mmol, 5 g | C[C@](CC=1C=CC(=C(C1)O)O)(C(=O)O)NN | C10H14N2O4
reactant | triethylamine | 21 mmol, 3 mL | C(C)N(CC)CC | C6H15N
reactant | Boc anhydride | 21 mmol, 4.7 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | CO | CH4O
product | 2-(N′-tert-Butoxycarbonyl-hydrazino)-3-(3,4-dihydroxy-phenyl)-2-methyl-propionic acid | 6.2 g, 95% | C(C)(C)(C)OC(=O)NNC(C(=O)O)(CC1=CC(=C(C=C1)O)O)C | C15H22N2O6
